US05763437
To a solution of (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-tert-butoxycarbonylamino-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (0.379 g) in ethyl acetate (10 ml) was treated with hydrogen chloride under stirring. The mixture was extracted with water twice and 1N hydrogen chloride aqueous solution. The extracts were combined, alkalized with sodium bicarbonate and extracted with chloroform three times. The extracts were combined, dried over sodium sulfate and evaporated in vacuo to afford (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-amino-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (0.25 g).

reactant | (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-tert-butoxycarbonylamino-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 0.379 g | C(C)(=O)C=1SC=CC1CN1C(C(N=C(C2=C1C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C)=O | C27H33N3O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (3RS)-1-(2-acetylthiophen-3-yl)methyl-3-amino-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 0.25 g | C(C)(=O)C=1SC=CC1CN1C(C(N=C(C2=C1C=CC=C2)C2CCCCC2)N)=O | C22H25N3O2S
